US05356897
A mixture of 2-(4-fluorophenyl)-3-oxo-3-(pyridin-4-yl)propanenitrile (10 g), hydrazine monohydrate (2.4 ml) and acetic acid (5.2 ml) in dry benzene (100 ml) was refluxed for 4 hours. The reaction mixture was cooled and extracted with 3N-hydrochloric acid (80 ml×3). The extracts were concentrated in vacuo to 100 ml of the volume and the solution was neutralized with aqueous ammonia solution. The separated solid was collected, washed with water and dried to give 5-amino-4-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazole (2.02 g).

reactant | 2-(4-fluorophenyl)-3-oxo-3-(pyridin-4-yl)propanenitrile | 10 g | FC1=CC=C(C=C1)C(C#N)C(C1=CC=NC=C1)=O | C14H9FN2O
reactant | hydrazine monohydrate | 2.4 ml | O.NN
reactant | acetic acid | 5.2 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 5-amino-4-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazole | 2.02 g | NC1=C(C(=NN1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H11FN4
